US07601736B2
4-methyl-quinoline-3-carbonitrile (600 mg, 3.567 mmol) was dissolved in 10 mL of anhydrous THF, added with LHMDS (1M solution in THF, 3.9 mL, 3.924 mmol) at −78° C. under the nitrogen atmosphere and then stirred for about 1 hour at the same temperature. The mixture was dropwisely added with chloromethyl methyl ether (0.30 mL, 3.924 mmol) and then stirred for about 1 hour at −50° C., and then for about 1 hour at 0° C. The above mixture, while being stirred at 0° C., was added with 5 mL of a saturated solution of ammonium chloride and 10 mL of distilled water and then extracted twice with 50 mL of EtOAc. The resulting organic layer was washed with a saturated solution of sodium chloride, dried with anhydrous sodium sulfate and filtered. A silica gel column chromatography (30% EtOAc/Hexanes) was performed on the residue resulted by concentration of the above filtrate and obtained 305 mg (40%) of 4-(2-methoxy-ethyl)-quinoline-3-carbonitrile in pale yellow solid.

reactant | 4-methyl-quinoline-3-carbonitrile | 3.567 mmol, 600 mg | CC1=C(C=NC2=CC=CC=C12)C#N | C11H8N2
reactant | LHMDS | 3.924 mmol, 1M, 3.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | chloromethyl methyl ether | 3.924 mmol, 0.30 mL | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-(2-methoxy-ethyl)-quinoline-3-carbonitrile | 305 mg, 40% | COCCC1=C(C=NC2=CC=CC=C12)C#N | C13H12N2O
